US07585868B2
Synthesis of 4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-hydroxybenzonitrile (BA155—2).
5-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-fluorobenzonitrile (BA151, 20 mg, 0.07 mmol) was dissolved in DMF (1 ml). t-BuOK (24 mg, 0.21 mmol) was added and the reaction was stirred at room temperature overnight. Reaction was then heated to 150° C. for 24 hours. The reaction was then concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA157—2 (7 mg), ESI-MS (M+H)+ m/z calcd 295.1, found 295.4 and BA157—3 (8 mg), ESI-MS (M+H)+ m/z calcd 310.1, found 310.4.

reactant | 5-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-fluorobenzonitrile | 0.07 mmol, 20 mg | NC1=C2C(=NC=N1)N(N=C2C=2C=CC(=C(C#N)C2)F)C(C)C | C15H13FN6
reactant | t-BuOK | 0.21 mmol, 24 mg | CC(C)(C)[O-].[K+]
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-hydroxybenzonitrile | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C#N)C=C2)O)C(C)C | C15H14N6O
